US05175174
5.0 g (22.7 mmol) of 1-(4-nitrophenyl)-4-piperidone, 16.0 g (220 mmol) of diethylamine and 5 ml of formic acid in 150 ml of toluene were refluxed with a water trap for 5 h. The solvent was removed under reduced pressure, and 4-(N,N-diethylamino)-1-(4-nitrophenyl)-1,2,3,6-tetrahydropyridine was obtained as crude product. 3.45 g (92.5 mmol) of sodium borohydride were added a little at a time to this crude product in 150 ml of ethanol at 10° C. The mixture was left to stir at room temperature for 3 h and then the solvent was removed under reduced pressure. The residue was partitioned between water and methylene chloride, and the organic phase was dried and concentrated under reduced pressure. This crude product was dissolved in a little isopropanol, and ethereal hydrogen chloride solution was added to give 5.5 g of 4-(N,N-diethylamino)-1-(4-nitrophenyl)piperidine hydrochloride, which was identical to the product from preparation 1. Melting point 183°- 184° C.

reactant | 1-(4-nitrophenyl)-4-piperidone | 22.7 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | diethylamine | 220 mmol, 16.0 g | C(C)NCC | C4H11N
reactant | formic acid | 5 ml | C(=O)O | CH2O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(N,N-diethylamino)-1-(4-nitrophenyl)-1,2,3,6-tetrahydropyridine | C(C)N(CC)C=1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H21N3O2
